US07135486B1
N-[4-(2,2-Dicyanovinyl)phenyl]acetamide
32.6 g (0.2 mol) of 4-acetaminobenzaldehyde and 13.74 g (0.208 mol) of malononitrile are initially charged in 140 ml of ethanol, and 24 drops of piperidine are added. The mixture is stirred at reflux for 30 min. After cooling, the crystals are filtered off with suction and dried.

reactant | 4-acetaminobenzaldehyde | 0.2 mol, 32.6 g | N(C(=O)C)C1=CC=C(C=O)C=C1 | C9H9NO2
reactant | malononitrile | 0.208 mol, 13.74 g | C(CC#N)#N | C3H2N2
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | piperidine | 24 drops | N1CCCCC1 | C5H11N
product | N-[4-(2,2-Dicyanovinyl)phenyl]acetamide | C(#N)C(=CC1=CC=C(C=C1)NC(C)=O)C#N | C12H9N3O
